US06562828B1
4-Carbamoylpiperidine-1-carboxylic Acid Benzyl Ester
To a solution of 1-benzyloxycarbonylpiperidine-4-carboxylic acid (10.5 g) in tetrahydrofuran (100 ml) were dropwise added N-methylmorpholine (4.6 ml) and isobutyl chlorocarbonate (5.4 ml) with ice-cooling and under an argon atmosphere, and the mixture was stirred at the same temperature for 10 min. Then, 28% aqueous ammonia (100 ml) was added dropwise, and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the solvent was evaporated and water was added. The mixture was extracted with ethyl acetate and washed successively with aqueous sodium hydrogencarbonate solution, 10% aqueous citric acid solution and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated and dried under reduced pressure to give the title compound (8.3 g).

reactant | 1-benzyloxycarbonylpiperidine-4-carboxylic acid | 10.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | N-methylmorpholine | 4.6 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 5.4 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | ammonia | 100 ml | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Carbamoylpiperidine-1-carboxylic Acid Benzyl Ester | 8.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(N)=O | C14H18N2O3
